US07091353B2
N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]-2-phenylacetamide I-39
To a stirred suspension of 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione (0.55 g, 2.0 mmol) in THF (30 ml) was added 2-phenylacetyl chloride (0.62 g, 4.0 mmol). The mixture was heated to reflux for 18 hours. The solvent was evaporated in vacuo and the resulting solid was slurried in diethyl ether (20 ml) and filtered to give 0.72 g (92%) of product as an off-white solid: mp 217–218°°C.; 1H NMR (DMSO-d6) δ 11.15 (s, 1H), 9.79 (s, 1H), 8.49 (d, J=8.4 Hz, 1H), 7.82 (t, J=7.9 Hz, 1H), 7.60 (t, J=7.3 Hz, 1H), 7.41–7.27 (m, 5H), 5.13 (dd, J=5.1 and 12.7 Hz, 1H), 3.85 (s, 2H), 2.98–2.83 (m, 1H), 2.64–2.44(m, 2H), 2.08–2.04 (m, 1H); 13C NMR (DMSO-d6) δ 172.71, 170.07, 169.74, 167.60, 166.61, 136.38, 136.10, 134.70, 131.41, 129.41, 128.58, 126.97, 125.96, 118.39, 116.90, 48.89, 43.47, 30.90, 21.91; Anal. Calcd. For C21H17N3O5: C, 64.45; H, 4.38; N, 10.74. Found: C, 64.23; H, 4.34; N, 10.53.

reactant | 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione | 2.0 mmol, 0.55 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C13H11N3O4
reactant | 2-phenylacetyl chloride | 4.0 mmol, 0.62 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]-2-phenylacetamide | 0.72 g, 92% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NC(CC1=CC=CC=C1)=O)=O)=O | C21H17N3O5
